US07671060B2
Methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-benzoate
A solution of methyl 3-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-5-[(2S)-1-hydroxypropan-2-yl]oxy-benzoate (94 g, 250 mmol) in acetonitrile (1130 mL) was degassed with nitrogen then copper(I) iodide (9.54 g, 50 mmol) was charged and the solution was heated to 55° C. A solution of 2,2-difluoro-2-fluorosulfonyl-acetic acid (CAS no. 1717-59-5) (46.6 mL, 450 mmol) in acetonitrile (188 mL) was charged dropwise. After 3 hours the solvent was evaporated under reduced pressure at 25° C. The residue was taken up in dichloromethane (500 mL) and filtered. The solid was washed further with dichloromethane until the washings were clear. The solvent was evaporated under reduced pressure at 25° C. and the residue was purified by flash chromatography eluting with 100% ethyl acetate to afford the title compound (54 g).

reactant | methyl 3-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-5-[(2S)-1-hydroxypropan-2-yl]oxy-benzoate | 250 mmol, 94 g | CN(C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O[C@H](CO)C)C | C18H21N3O6
reactant | 2,2-difluoro-2-fluorosulfonyl-acetic acid | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
solvent | acetonitrile | 1130 mL | C(C)#N | C2H3N
solvent | acetonitrile | 188 mL | C(C)#N | C2H3N
catalyst | copper(I) iodide | 50 mmol, 9.54 g | [Cu]I
product | Methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[5-(dimethylcarbamoyl)pyrazin-2-yl]oxy-benzoate | 54 g | FC(OC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OC1=NC=C(N=C1)C(N(C)C)=O)F | C19H21F2N3O6
